US08022062B2
6-(2-tert-Butoxycarbonylamino-ethylamino)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Use a method similar to the General Procedure 5-1, using 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (150 mg, 0.352 mmol), palladium(II) acetate (8 mg, 0.0352 mmol), BINAP (22 mg, 0.0352 mmol), cesium carbonate (163 mg, 0.5 mmol), t-butyl N-(2-aminoethyl)-carbamate (254 mg, 1.59 mmol) and toluene (6 mL) to give, after chromatography on silica gel eluting with hexane/EtOAc (4:1), the desired intermediate (136 mg, 89%).

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.352 mmol, 150 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | BINAP | 0.0352 mmol, 22 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.5 mmol, 163 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | t-butyl N-(2-aminoethyl)-carbamate | 1.59 mmol, 254 mg | NCCNC(OC(C)(C)C)=O | C7H16N2O2
catalyst | palladium(II) acetate | 0.0352 mmol, 8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(2-tert-Butoxycarbonylamino-ethylamino)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)NCCNC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)Cl | C19H25ClF3N3O3
